2184-03-15 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Rash;
   Ciprofloxacin
   Unknown;
   Cefazolin
   Rash; itchiness
   Adhesive Tape (Topical)
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2184-3-12**] 08:00 AM
   Imipenem/Cilastatin - [**2184-3-15**] 04:17 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-3-14**] 08:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-15**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 83 (79 - 104) bpm
   BP: 105/53(66) {95/19(31) - 120/55(70)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,124 mL
                                                                    280 mL
   PO:
                                                                    230 mL
             TF:
   IVF:
                                                                    894 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                    820 mL
   Urine:
                                                                  3,540 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,416 mL
                                                                   -540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   88 K/uL
   7.2 g/dL
   107 mg/dL
   3.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   114 mg/dL
   102 mEq/L
   139 mEq/L
   23.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2184-3-11**]  11:29 PM
                             [**2184-3-12**]  05:24 AM
                             [**2184-3-12**]  04:55 PM
                             [**2184-3-13**]  02:33 AM
                             [**2184-3-14**]  04:27 AM
                             [**2184-3-14**]  02:25 PM
                             [**2184-3-15**]  03:10 AM
   WBC
   11.9
   10.9
   6.7
   6.9
   Hct
   24.0
   24.3
   24.2
   23.9
   Plt
   107
   112
   96
   88
   Cr
   3.8
   3.7
   4.1
   4.1
   4.0
   3.9
   3.9
   Glucose
   [**Telephone/Fax (3) 12530**]04
   145
   107
   Other labs: PT / PTT / INR:20.6/36.2/1.9, ALT / AST:20/30, Alk Phos / T
   Bili:67/0.6, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 DYSPHAGIA
 COAGULOPATHY
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-3-12**] 12:56 AM
   PICC Line - [**2184-3-13**] 10:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: